US07498337B2
5-bromo-2-methyl-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde
To a solution of 2-methyl-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde (974 mg) in N,N-dimethylformamide (10 mL) was added N-bromosuccinimide (1.17 g) at 0° C., and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogencarbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=2:1) to give the title compound as white crystals (yield 675 mg, 53%).

reactant | 2-methyl-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde | 974 mg | CC=1N(C=CC1C=O)S(=O)(=O)C=1C=NC=CC1 | C11H10N2O3S
reactant | N-bromosuccinimide | 1.17 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 5-bromo-2-methyl-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde | yield 675 mg, 53% | BrC1=CC(=C(N1S(=O)(=O)C=1C=NC=CC1)C)C=O | C11H9BrN2O3S
